US07067506B2
Step 1: 5-Benzoyl-pyrazine-2-carboxylic acid.
To a stirred, cooled (0° C.) solution of 2-pyrazine carboxylic acid (3.0 g, 24.2 mmol) and benzaldehyde (7.4 mL; 73 mmol) in a 50% aqueous solution of sulfuric acid (40 mL) and 25 mL of acetic acid was added FeSO4 7 H2O (20.3 g, 73 mmol dissolved in 50 mL of water) and t-butyl peroxide (9.2 mL; 73 mmol) simultaneously. After stirring for 1 hour, the reaction was treated with 200 mL of water. A precipitate formed which was filtered and washed with methylene chloride (3×100 mL) to yield a tan solid (36% yield).

reactant | 2-pyrazine carboxylic acid | 24.2 mmol, 3.0 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | benzaldehyde | 73 mmol, 7.4 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
reactant | t-butyl peroxide | 73 mmol, 9.2 mL | C(C)(C)(C)OOC(C)(C)C | C8H18O2
solvent | water | 200 mL | O | H2O
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 5-Benzoyl-pyrazine-2-carboxylic acid | 36% yield | C(C1=CC=CC=C1)(=O)C=1N=CC(=NC1)C(=O)O | C12H8N2O3
